US07425631B2
Step A—Preparation of tert-butyl-(chroman-4-yloxy)-dimethyl-silane
tert-Butyl-chloro-dimethyl-silane (10.54 g, 70 mmol) was added to a CH2Cl2 (200 mL) solution of 4-chromanol (10.00 g, 66.6 mmol), N-methylmorpholine (10.98 mL, 100 mmol) and imidazole (0.20 g, 3 mmol) at 0° C. The mixture was stirred for 3 days at RT. The reaction was diluted with CH2Cl2 (200 mL), washed with dilute HCl and H2O, dried over MgSO4, filtered, and concentrated in vacuo to provide the title compound.

reactant | tert-Butyl-chloro-dimethyl-silane | 70 mmol, 10.54 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | 4-chromanol | 66.6 mmol, 10.00 g | O1CCC(C2=CC=CC=C12)O | C9H10O2
reactant | N-methylmorpholine | 100 mmol, 10.98 mL | CN1CCOCC1 | C5H11NO
reactant | imidazole | 3 mmol, 0.20 g | N1C=NC=C1 | C3H4N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl-(chroman-4-yloxy)-dimethyl-silane | C(C)(C)(C)[Si](C)(C)OC1CCOC2=CC=CC=C12 | C15H24O2Si
